US08071592B2
1-[2-((3S,4S)-3-{[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]methyl}-4-hydroxy-1-pyrrolidinyl)ethyl]-7-(methyloxy)-2(1H)-quinolinone hydrochloride
1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone (118 mg, 0.372 mmol) and 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde (68 mg, 0.409 mmol) were combined in anhydrous DCM (5 ml) and anhydrous MeOH (1 ml) with a spatula of solid sodium carbonate. The reaction mixture was stirred under nitrogen for 18 h then sodium triacetoxyborohydride (247 mg, 1.12 mmol) was added and stirred for 1 h. The reaction mixture was concentrated and purified to obtain the free base of the title compound as a pale oil (35 mg, 20%) after column:chromatography (90:10:1: DCM:MeOH:NH4OH).

reactant | 1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone | 0.372 mmol, 118 mg | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)OC)=O | C17H23N3O3
reactant | 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde | 0.409 mmol, 68 mg | N1=NC(=CC2=C1OCCO2)C=O | C7H6N2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 1.12 mmol, 247 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
product | 1-[2-((3S,4S)-3-{[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]methyl}-4-hydroxy-1-pyrrolidinyl)ethyl]-7-(methyloxy)-2(1H)-quinolinone hydrochloride | 35 mg, 20% | Cl.N1=NC(=CC2=C1OCCO2)CNC[C@H]2CN(C[C@H]2O)CCN2C(C=CC1=CC=C(C=C21)OC)=O | InChI=1S/C24H29N5O5.ClH/c1-32-19-4-2-16-3-5-23(31)29(20(16)11-19)7-6-28-14-17(21(30)15-28)12-25-13-18-10-22-24(27-26-18)34-9-8-33-22;/h2-5,10-11,17,21,25,30H,6-9,12-15H2,1H3;1H/t17-,21+;/m0./s1
